US08303944B2
The triethyl phosphite (0.9 mL, 5.33 mmol) was added to a solution of (S)-tert-butyl 2-(4-(4-bromophenyl)hydroxy-5-propyl-1H-imidazol-2-yl)pyrrolidine-1-carboxylate (800 mg, 1.776 mmol) in DMF (2 mL) and stirred for 18 hours at 80° C. Add second 0.8 mL and the reaction was continued an additional 8 hours, cooled, and taken up in ethyl acetate (400 mL) and washed with water and brine. Apply in CH2Cl2 to a 25 (M) Biotage silica gel column. Gradient elution, 15-100%, over 750 mL (A=Hexanes; B=ethyl acetate) gave (S)-tert-butyl 2-(4-(4-bromophenyl)-5-propyl-1H-imidazol-2-yl)pyrrolidine-1-carboxylate 585 mg (76%). 1H NMR (500 MHz, DMSO-d6) δ 7.55-7.53 (m, 4H), 4.80-4.69 (m, 1H), 3.53-3.51 (m, 1H), 3.38-3.32 (m, 1H), 2.71 (t, J=7.0 Hz, 2H), 2.24-2.11 (m, 1H), 2.0-1.79 (m, 1H), 1.89-1.79 (m, 2H), 1.63-1.59 (m, 2H), 1.41/1.17 (s, 9H). 0.91 (t, J=7.6 Hz, 3H). RT=1.8 min, (Condition 1) LRMS: Anal. Calcd. for C21H28BrN3O2 434.14. found: 434.0 (M+H)+.

reactant | triethyl phosphite | 5.33 mmol, 0.9 mL | P(OCC)(OCC)OCC | C6H15O3P
reactant | (S)-tert-butyl 2-(4-(4-bromophenyl)hydroxy-5-propyl-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 1.776 mmol, 800 mg | BrC1=CC=C(C=C1)C=1N=C(N(C1CCC)O)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C21H28BrN3O3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | (S)-tert-butyl 2-(4-(4-bromophenyl)-5-propyl-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 585 mg, 76% | BrC1=CC=C(C=C1)C=1N=C(NC1CCC)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C21H28BrN3O2
